US07022702B2
Synthesis of 5-(Phenyltetradecylamino)-[1,2,3]thiadiazole-4-carboxylic acid amide
To an ice-cooled suspension of NaH (19 mg, 60 wt % in oil, 0.46 mmole) in 3 mL of DMF was added 5-phenylamino-[1,2,3]thiadiazole-4-carboxylic acid amide (100 mg, 0.46 mmole). The mixture was stirred at room temperature for 1 h. 1-Bromotetradecane (131 mg, 0.47 mmole) was then added to the reaction mixture which was cooled in an ice bath. The reaction was carried out overnight with stirring and then quenched with a mixture of 5 mL of saturated aqueous NH4Cl, 5 mL of saturated aqueous NaCl and 10 mL EtOAc. The aqueous layer was extracted with EtOAc (2×10 mL). The combined organic layers were dried with anhydrous Na2SO4, concentrated and then purified by preparative TLC with hexane:EtOAc (1:1) as the eluant. A white powder product was obtained (122 mg, 66%). m.p. 79-81° C. 1H NMR (ppm, CDCl3): 7.60-7.44 (m, 5 H), 7.20 (s, br., 1 H), 5.63 (s, br., 1 H), 2.96 (t, 2 H), 1.43-1.00 (m, 24 H), 0.88 (t, 3 H). FTIR (cm−1, KBr pellet): 3386, 3299, 2918, 2851, 1674, 1657, 1600, 1527, 1503, 1384, 1299, 999, 766, 743, 693.

reactant | NaH | 0.46 mmole, 19 mg | [H-].[Na+]
reactant | 5-phenylamino-[1,2,3]thiadiazole-4-carboxylic acid amide | 0.46 mmole, 100 mg | C1(=CC=CC=C1)NC1=C(N=NS1)C(=O)N | C9H8N4OS
reactant | 1-Bromotetradecane | 0.47 mmole, 131 mg | BrCCCCCCCCCCCCCC | C14H29Br
reactant | KBr | [K+].[Br-]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 5-(Phenyltetradecylamino)-[1,2,3]thiadiazole-4-carboxylic acid amide | C1(=CC=CC=C1)CCCCCCCCCCCCCCNC1=C(N=NS1)C(=O)N | C23H36N4OS
